US06534546B1
Synthesis of N-(3-nitrophenylmethyl)carbamic acid t-butyl ester
Triethylamine (2.8 ml) and di-t-butyl dicarbonate (2.3 g) were added to a solution of 3-nitrobenzylamine hydrochloride (1.5 g) in dimethylformamide (30 ml) and stirred at room temperature for 16 h. Water and 2 N HCl were added to the reaction mixture for pH adjustment to 3; following extraction with ethyl acetate, the organic layer was successively washed with a saturated aqueous sodium chloride solution, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, n-hexane:ethyl acetate=6:4) to give 1.9 g of the titled compound (yield, 94%).

reactant | Triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyl dicarbonate | 2.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-nitrobenzylamine hydrochloride | 1.5 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | HCl | 2 N | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-(3-nitrophenylmethyl)carbamic acid t-butyl ester | 1.9 g, 94% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)[N+](=O)[O-])=O | C12H16N2O4
